US06514996B2
(Step A) Methyl 7-methoxybenzofuran-4-carboxylate (Compound IIw-a)
7-Methoxybenzofuran-4-carboxylic acid (0.50 g) was dissolved in methanol (10 ml), and sulfuric acid (0.6 ml) was dropwise added thereto under ice-cooling, followed by heating under reflux for one hour. Sulfuric acid (0.2 ml) was further added to the mixture followed by heating under reflux for 30 minutes. After being allowed to stand for cooling, the solvent was distilled off, and the residue was poured into a 1N aqueous solution of sodium hydroxide. The precipitate was collected by filtration and dried to give Compound IIw-a (0.53 g, 99%) as a white solid.

reactant | 7-Methoxybenzofuran-4-carboxylic acid | 0.50 g | COC=1C=CC(=C2C=COC21)C(=O)O | C10H8O4
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | Sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 ml | CO | CH4O
product | Methyl 7-methoxybenzofuran-4-carboxylate | COC=1C=CC(=C2C=COC21)C(=O)OC | C11H10O4
